US09216999B2
4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
4-[(1-Benzylpiperidin-4-yl)amino]-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (672 mg, 2.01 mmol) in N,N-dimethylformamide (5 mL) was mixed with sodium hydride (55 wt % dispersion in mineral oil, 436 mg, 10.0 mmol) under cooling with ice, and the reaction mixture was stirred for 30 minutes. The reaction mixture was stirred with [2-(chloromethoxyl)ethyl]trimethylsilane (885 μL, 5.00 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound (392 mg, yield 42%).

reactant | 4-[(1-Benzylpiperidin-4-yl)amino]-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 2.01 mmol, 672 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1C=O)NC=C2 | C20H22N4O
reactant | sodium hydride | 10.0 mmol, 436 mg | [H-].[Na+]
reactant | [2-(chloromethoxyl)ethyl]trimethylsilane | 5.00 mmol, 885 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 392 mg, yield 42% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C26H36N4O2Si
